US06861424B2
A solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-7-methyl-4-(1-(ethoxycarbonyl)cyclobut-1-oxy)quinoline (220 mg, 0.29 mmol) in 50% trifluoroacetic acid-methylene chloride (6 mL) was stirred at ambient temperature for 1 hour. The solvent was evaporated in vacuo and the residue was dissolved in methanol (5 ml). LiOH (5 mL, 0.025 M) was added and the reaction stirred for 3 hours. The solvent was evaporated and the residue was purified by preparative HPLC to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-7-methyl-4-(1-carboxycyclobut-1-oxy)quinoline, as a white solid (190 mg, 95%, trifluoroacetic acid salt); NMR (DMSO-d6) 1.15 (t, 3), 1.82 (m, 1), 2.00 (m, 3), 2.30 (m, 2), 2.51 (s, 3), 2.56 (m, 2), 2.68 (m, 2), 3.40 (m, 6), 3.62 (m, 2), 4.00 (q, 2), 4.98 (m, 1), 6.98 (s, 1), 7.52 (dd, 1), 7.88 (s, 1), 8.14 (d, 1), 8.85 (d, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-7-methyl-4-(1-(ethoxycarbonyl)cyclobut-1-oxy)quinoline | 0.29 mmol, 220 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)O)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OC1(CCC1)C(=O)OCC)C | C30H38N4O9
solvent | trifluoroacetic acid methylene chloride | 6 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-7-methyl-4-(1-carboxycyclobut-1-oxy)quinoline | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)O)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OC1(CCC1)C(=O)O)C | C28H34N4O9
